US07056918B2
To a dichloromethane (2 mL) solution of [4-(1,3-Diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-3-m-tolyl-pyrazol-1-yl]-acetic acid (0.106 g) was added carbonyldiimidazole (0.055 g). After stirring at 23° C. for 0.5 hours ethyl amine (0.2 mL, 2M in tetrahydrofuran) was added. The reaction was stirred at 23° C. for an additional hour then was concentrated. Preparative thin layer chromatography gave 2-[4-(1,3-Diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-3-m-tolyl-pyrazol-1-yl]-N-ethyl-acetamide (0.075 g).

reactant | [4-(1,3-Diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-3-m-tolyl-pyrazol-1-yl]-acetic acid | 0.106 g | C(C)N1C(N(C2=C1C=CC(=C2)C=2C(=NN(C2)CC(=O)O)C=2C=C(C=CC2)C)CC)=O | C23H24N4O3
reactant | carbonyldiimidazole | 0.055 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethyl amine | 2M, 0.2 mL | C(C)N | C2H7N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-[4-(1,3-Diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-3-m-tolyl-pyrazol-1-yl]-N-ethyl-acetamide | 0.075 g | C(C)N1C(N(C2=C1C=CC(=C2)C=2C(=NN(C2)CC(=O)NCC)C=2C=C(C=CC2)C)CC)=O | C25H29N5O2
